US04378368
Two grams of 4-cyanoindole, prepared by the method of Uhle J.A.C.S., 71, 761 (1949), were dissolved in 20 ml of anhydrous ether. 15 Milliliters of a 20% solution of diisobutylaluminum hydride (DiBAl) in hexane were added in dropwise fashion. The reaction mixture was stirred at room temperature for about 30 minutes and then heated to refluxing temperature for about three hours. The reaction mixture was then cooled and 10 ml of a 4:1 dioxane-water solution added with stirring over a period of five minutes. 30 Milliliters of 1 N HCl were added over a 30 minute period with stirring. The aqueous mixture was extracted with several portions of ethyl acetate and the ethyl acetate extracts combined. The combined extracts were washed with 10 percent aqueous sodium carbonate and with saturated aqueous sodium chloride and were then dried. Evaporation of the solvent yielded 2.24 g of 4-formylindole. 4-Formylindole was purified by chromatography over Florisil using a hexane-ether solvent mixture (2:1) as the eluant. Recrystallization of the chromatographed 4-formylindole from an ether-hexane solvent mixture yielded yellow needles of 4-formylindole melting at 136°-137° C. Infrared spectrum; peak at 1670 cm-1 ; nmr (D6 acetone) δ 10.35 (s, 1H, CHO), 7.2-7.9 (m, 6H, Ar.); mass spectrum; molecular ion at 145.

reactant | 4-cyanoindole | Two grams | C(#N)C1=C2C=CNC2=CC=C1 | C9H6N2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | dioxane water | 10 ml | O1CCOCC1.O
reactant | HCl | 1 N | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 4-formylindole | 2.24 g | C(=O)C1=C2C=CNC2=CC=C1 | C9H7NO
